US08426437B2
This compound is prepared according to synthesis 25, from 115 mg (0.35 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 48 μL (0.42 mmol) of cyclohexylamine. After purification by chromatography on silica (eluent dichloromethane/methanol 95/5), 20 mg (14%) of 8-cyclohexylsulfamoyl-4-oxo-4,5-dihydro-3H -pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.35 mmol, 115 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | cyclohexylamine | 0.42 mmol, 48 μL | C1(CCCCC1)N | C6H13N
product | 8-cyclohexylsulfamoyl-4-oxo-4,5-dihydro-3H -pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 20 mg, 14% | C1(CCCCC1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C17H19N3O3S.C3H6O2/c21-17-16-13(8-9-18-16)14-10-12(6-7-15(14)19-17)24(22,23)20-11-4-2-1-3-5-11;1-2-3(4)5/h6-11,18,20H,1-5H2,(H,19,21);2H2,1H3,(H,4,5)/p-1
